US07157487B2
To a solution of 4,6-difluoro-2-hydroxynitrobenzene (12.5 g, 71.1 mmol) in DMF (150 ml) was added sodium hydride (60% in oil, 3.70 g, 92.4 mmol) under stirring at 0° C., and the reaction mixture was stirred for 15 minutes. Benzyl bromide (11.0 ml, 92.4 mmol) was added dropwise at 0° C. After completion of the dropwise addition, the reaction mixture was stirred at 80° C. for 18 hours. After cooling to room temperature, the mixture was poured in ice-1N HCl to neutralize therewith, followed by extraction with ether. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from ethyl acetate/hexane (1/5) eluate fractions, 2-benzyloxy-4,6-difluoronitrobenzene (13.7 g, 73%) was obtained as a yellow solid.

reactant | 4,6-difluoro-2-hydroxynitrobenzene | 71.1 mmol, 12.5 g | FC1=CC(=C(C(=C1)F)[N+](=O)[O-])O | C6H3F2NO3
reactant | sodium hydride | 92.4 mmol, 3.70 g | [H-].[Na+]
reactant | Benzyl bromide | 92.4 mmol, 11.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-benzyloxy-4,6-difluoronitrobenzene | 13.7 g, 73% | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C13H9F2NO3
